US06838454B2
Preparation of 3-(3-Benzylureido)-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid Step A.
3-Amino-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester (33 mg, 0.09 mmol) is solved in 3 ml dry Dioxane. Benzylisocyanate (10.6 μl, 0.086 mmol) is added and the reaction is stirred at room temperature for 1 h. Evaporation of the solvent and flash-chromatography, Dichloromethane/Methanol (7:1) afforded the product: Cal. 515.6 found (M)+ 515.9.

reactant | 3-Amino-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester | 0.09 mmol, 33 mg | C(C)(C)(C)OC(=O)C1N(CC=CCC1N)S(=O)(=O)C1=CC=C(C=C1)OC | C18H26N2O5S
reactant | Benzylisocyanate | 0.086 mmol, 10.6 μl | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | Dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 3-(3-Benzylureido)-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid | C(C1=CC=CC=C1)NC(NC1C(N(CC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O)=O | C22H25N3O6S
